US05907045
50% sodium hydride (1.1 g) was added to a solution of 3-methylindole (4 g) dissolved in anhydrous DMF (50 ml), keeping the temperature under 30° C. Stir for 15 minutes, then drip carefully the phenylsulphonyl chloride (4.7 ml) dissolved in anhydrous DMF (20 ml) and leave under stirring for 2 hours at 25° C. Then add methanol (5 ml) to decompose the possible present traces of BuLi; remove the solvent under reduced pressure, add water (20 ml) and extract exhaustively with methylenchloride. The organic phase is made anhydrous on sodium sulfate and the solvent is removed under reduced pressure. The residue (9.5 g) is ground in methylenchloride/hexane 1:1 to obtain N-(phenylsulphonyl)-3-methylindole (2 g) (m.p. 116-120° C.). The mother liquors are chromatographied to recover more product, eluting with methylenchloride/hexane 1:1. N-(phenylsulphonyl)-3-methylindole (7 g) is recovered from the intermediate fractions, removing the solvent under reduced pressure.

reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | 3-methylindole | 4 g | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | phenylsulphonyl chloride | 4.7 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | BuLi | [Li]CCCC
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | methanol | 5 ml | CO | CH4O
product | N-(phenylsulphonyl)-3-methylindole | 2 g, yield: 85% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C | C15H13NO2S
